US06458781B1
Step A. (S)-(1-Methoxycarbamoyl-3-methyl-butyl)-carbamic acid tert-butyl ester
N-tert-Butoxycarbonyl-L-leucine monohydrate (2.5 g, 10 mmol, Bachem Inc., Torrance, Calif.) was dissolved in dry DMF (15 mL) under nitrogen atmosphere and cooled to 5° C. To this solution were added, in succession, N,N-diisopropylethylamine (5.3 mL, 30 mmol) and solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (3.8 g, 10 mmol). The resulting reaction mixture was stirred at that temperature for 30 minutes; O,N-dimethylhydroxylamine hydrochloride (1.1 g, 11 mmol, Aldrich, Milwaukee, Wis.) was then added. After additional 30 minutes stirring at 0° C., the reaction mixture was mixed with 75 mL of diethyl ether; the resulting mixture was successively washed with 5% aqueous HCl solution (50 mL), brine (50 mL), saturated aqueous NaHCO3 solution (50 mL), brine (2×50 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording 2.3 g of desired product as a clear oil which was used in the subsequent reaction without further purification.

reactant | N-tert-Butoxycarbonyl-L-leucine monohydrate | 10 mmol, 2.5 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | N,N-diisopropylethylamine | 30 mmol, 5.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 10 mmol, 3.8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | O,N-dimethylhydroxylamine hydrochloride | 11 mmol, 1.1 g | Cl.CONC
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | (S)-(1-Methoxycarbamoyl-3-methyl-butyl)-carbamic acid tert-butyl ester | 2.3 g | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(NOC)=O)=O | C12H24N2O4
